US09290451B2
b) 5-Bromo-6-(4-fluoro-phenoxy)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
5-Bromo-6-chloro-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide (50 mg, 143 μmol) was dissolved in DMF (0.5 mL) to give a colorless solution. 4-Fluorophenol (19.3 mg, 172 μmol) and sodium carbonate (45.6 mg, 430 μmol) were added successively to give a yellow solution. The reaction mixture was stirred at 120° C. over the weekend, cooled to ambient temperature and poured into 40 mL water. The mixture was extracted with isopropyl acetate (2×40 mL), organic phases were combined, dried with Na2SO4 and concentrated in vacuo. The residue was purified by preparative TLC (silica gel, 2.0 mm, isopropyl acetate) to give the title compound (23 mg, 38%) as colorless oil, MS (ESI): m/e=421.9 [M−H]−.

reactant | 5-Bromo-6-chloro-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | 143 μmol, 50 mg | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)Br)Cl | C12H15BrClN3O2
reactant | 4-Fluorophenol | 172 μmol, 19.3 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium carbonate | 430 μmol, 45.6 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 40 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-6-(4-fluoro-phenoxy)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | 23 mg, 38% | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)Br)OC1=CC=C(C=C1)F | C18H19BrFN3O3
